US07241783B2
1-(4-carboxy-2-hydroxybenzylidene)-4-(naphth-1-yl)-3-thiosemicarbazide
A solution of 4-(naphth-1-yl)-3-thiosemicarbazide (38 mg, 0.175 mmol) and 4 carboxy-2-hydroxybenzaldehyde (35 mg, 0.211 mmol) in dimethylformamide (2 mL) was shaken with 4 Å molecular sieves for 2.5 h. PS-TsNHNH2 resin (50 mg, 0.147 mmol) was added, shaking continued for 1 h, then the resin filtered off. Water was added to the filtrate and the precipitated solid was filtered, washed (water, ether) and dried to give the title compound (52 mg, 81%) as a solid. MS (ES+) m/e 366 [M+H]+.

reactant | 4-(naphth-1-yl)-3-thiosemicarbazide | 0.175 mmol, 38 mg | C1(=CC=CC2=CC=CC=C12)NC(NN)=S | C11H11N3S
reactant | carboxy-2-hydroxybenzaldehyde | 0.211 mmol, 35 mg | C(=O)(O)C=1C(=C(C=O)C=CC1)O | C8H6O4
reactant | TsNHNH2 | 0.147 mmol, 50 mg | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-(4-carboxy-2-hydroxybenzylidene)-4-(naphth-1-yl)-3-thiosemicarbazide | 52 mg, 81% | C(=O)(O)C1=CC(=C(C=NNC(=S)NC2=CC=CC3=CC=CC=C23)C=C1)O | C19H15N3O3S
